US06872718B1
tert-butyl N-[7-(tert-butyl)-2,3-dihydro-2,2,4-trimethyl-1-benzofuran-5-yl]carbamate
5-Amino-7-(tert-butyl)-2,3-dihydro-2,2,4-trimethyl-1-benzofuran (6.30 g, 27 mmol) was dissolved in THF (63 ml) and then triethylamine (5.65 ml, 40.5 mmol) was added. After cooling to 0° C., di-tert-butyl dicarbonate (6.48 g, 29.7 mmol) was added to the solution, and the mixture was stirred for 3 hours at room temperature. The reaction mixture was poured into cold water (100 ml), and extracted with diethyl ether. The organic layer was washed with saturated brine, dried over sodium sulfate and purified by silica gel column chromatography on a small amount of silica gel which was eluted with hexane:ethyl acetate (7:3). The resultant oil was the title compound (7.30 g).

reactant | 5-Amino-7-(tert-butyl)-2,3-dihydro-2,2,4-trimethyl-1-benzofuran | 27 mmol, 6.30 g | NC=1C=C(C2=C(CC(O2)(C)C)C1C)C(C)(C)C | C15H23NO
reactant | triethylamine | 40.5 mmol, 5.65 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 29.7 mmol, 6.48 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 100 ml | O | H2O
solvent | THF | 63 ml | C1CCOC1 | C4H8O
product | tert-butyl N-[7-(tert-butyl)-2,3-dihydro-2,2,4-trimethyl-1-benzofuran-5-yl]carbamate | C(C)(C)(C)C1=CC(=C(C=2CC(OC21)(C)C)C)NC(OC(C)(C)C)=O | C20H31NO3
